US06133303
Step 3: Methyl 3-methoxy-2-methylbenzoate
A solution of 13.98 g (0.0841 mol) of methyl 3-hydroxy-2-methylbenzoate in 120 mL of DMF was cooled in ice and treated dropwise with 200 mL (0.1 mol) of a 0.5 M solution of KHMDS in toluene. After stirring for 10 minutes, 7.8 mL (0.126 mol) of methyl iodide was added and the solution allowed to stir at room temperature overnight. The solution was diluted with EtOAc and washed twice with 6% HCl, 3 times with H2O, 10% NaHSO3, then saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 14.22 g (93.8% yield) of the product as a golden oil. The structure was confirmed by NMR and mass spectroscopy. MS m/z 181 (M+H+).

reactant | methyl 3-hydroxy-2-methylbenzoate | 0.0841 mol, 13.98 g | OC=1C(=C(C(=O)OC)C=CC1)C | C9H10O3
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl iodide | 0.126 mol, 7.8 mL | CI | CH3I
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-methoxy-2-methylbenzoate | 14.22 g, 93.8% yield | COC=1C(=C(C(=O)OC)C=CC1)C | C10H12O3
